US07504392B2
b) 2,2,2-Trifluoro-1-(6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-ethanone
To an ice bath cooled mixture of 6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride salt from part a) (23 g, 115.2 mmol) and triethylamine (48 mL) in dichloromethane (400 mL) was added trifluoroacetic anhydride (19.5 mL). The solution was stirred for 1 hour at room temperature before quenching with saturated sodium bicarbonate. The organic layer was removed, dried (MgSO4) and purified by chromatography on silica eluting with 10% EtOAc/Hexane up to 30% EtOAc/Hexane yielding the title compound D16 as a clear oil (7.75 g). MH+ 260. 1H NMR δ (CDCl3) 2.88-2.98 (2H, t), 3.74-3.90 (5H, m), 4.63-4.75 (2H, d), 6.65-6.84 (2H, m), 7.01-7.10 (1H, m).

reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride salt | Cl.COC=1C=C2CCNCC2=CC1
reactant | triethylamine | 48 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 19.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-1-(6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl)-ethanone | FC(C(=O)N1CC2=CC=C(C=C2CC1)OC)(F)F | C12H12F3NO2
